US08048902B2
Step 4: (4′-{4-[(R)-1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-acetic acid ethyl ester
[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-chloro-phenyl)-ethyl ester (3.0 g, 6.9 mmol), [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester (2.2 g, 7.6 mmol), dichloro-bis(triphenylphosphine)palladium(II) (0.25 g, 0.35 mmol), and sodium bicarbonate (1.7 g, 20.7 mmol) were combined in DME (30 mL) and H2O (10 mL), and the reaction was stirred at 80° C. for 2 hours. After aqueous work-up, the crude material was purified by silica gel chromatography (0-40% EtOAc in hexanes) to give the title compound.

reactant | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-chloro-phenyl)-ethyl ester | 6.9 mmol, 3.0 g | ClC1=C(C=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C19H16BrClN2O3
reactant | [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | 7.6 mmol, 2.2 g | C(C)OC(CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H23BO4
reactant | sodium bicarbonate | 20.7 mmol, 1.7 g | C([O-])(O)=O.[Na+]
solvent | DME | 30 mL | COCCOC | C4H10O2
solvent | H2O | 10 mL | O | H2O
product | (4′-{4-[(R)-1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)O[C@H](C)C1=C(C=CC=C1)Cl)=O | C29H27ClN2O5
